US06313312B1
1-Hexyl-1H-pyrrole-2,5-dione
4-(Hexylamino)-4-oxo-2-butenoic acid (Preparation 54, 75.8 g, 0.38 mol) was partially dissolved in acetic anhydride (1.5 l) and sodium acetate (125.6 g, 0.19 mol) was added in one portion. The reaction mixture was gradually heated to 110° C. for 4 h. Acetic anhydride was removed in vacuo and the title compound was obtained by vacuum distillation of the crude residue to give a colourless oil (49.8 g, 72%) which partially crystallised upon standing.

reactant | 4-(Hexylamino)-4-oxo-2-butenoic acid | 0.38 mol, 75.8 g | C(CCCCC)NC(C=CC(=O)O)=O | C10H17NO3
reactant | sodium acetate | 0.19 mol, 125.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 1.5 l | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Hexyl-1H-pyrrole-2,5-dione | C(CCCCC)N1C(C=CC1=O)=O | C10H15NO2
